US08664220B2
Step 3: 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid
2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid ethyl ester (more polar isomer, 0.164 g, 0.468 mmol) was dissolved in THF (3 mL) then MeOH (1 mL) and NaOH (1N aq., 1 mL) were added. The reaction stirred at room temperature overnight and was then acidified with 1N aq. HCl and submitted to standard aqueous workup to afford the title compound.

reactant | 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1C(C1)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C16H16BrNO3
reactant | MeOH | 1 mL | CO | CH4O
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-cyclopropanecarboxylic acid | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C1C(C1)C(=O)O | C14H12BrNO3
